US06235754B1
Preparation of 3-(p-Chlorophenyl)-1,2-difluoro-4-methyl-1-pentene
A solution of 3-(p-chlorophenyl)-1,1,2-trifluoro-4-methyl-1-pentene (2.48 g, 0.01 mol) in tetrahydrofuran is cooled to −8° C., treated dropwise with a 3.4 M solution of sodium bis(2-methoxyethoxy)aluminum hydride in toluene (3.1 mL), stirred overnight at room temperature, diluted with water, acidified with 10% hydrochloric acid, and extracted with methylene chloride. The combined organic extracts are washed sequentially with water, saturated sodium hydrogen carbonate solution and water, dried over anhydrous sodium sulfate, and concentrated in vacuo to obtain the title product as a yellow oil (2.10 g) which is identified by NMR spectral analyses.

reactant | 3-(p-chlorophenyl)-1,1,2-trifluoro-4-methyl-1-pentene | 0.01 mol, 2.48 g | ClC1=CC=C(C=C1)C(C(=C(F)F)F)C(C)C | C12H12ClF3
reactant | sodium bis(2-methoxyethoxy)aluminum hydride | [H-].COCCO[Al+]OCCOC.[Na+].[H-]
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | toluene | 3.1 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 3-(p-Chlorophenyl)-1,2-difluoro-4-methyl-1-pentene | 2.10 g | ClC1=CC=C(C=C1)C(C(=CF)F)C(C)C | C12H13ClF2
